US07504411B2
To a solution of 1,4-di(t-butoxycarbonyl)-2-(4-(1,2,4-oxadiazol-3-yl) phenyl)piperazine (464 mg, 1.08 mmol) in dichloromethane (2 mL) was added 4 N hydrogen chloride in ethyl acetate (3 mL) at room temperature. After stirring for 1.5 h, the precipitate was collected and dried in vacuo to afford 2-(4-(1,2,4-oxadiazol-3-yl)phenyl)piperazine dihydrochloride (321 mg, 98%) as a white powder.

reactant | 1,4-di(t-butoxycarbonyl)-2-(4-(1,2,4-oxadiazol-3-yl) phenyl)piperazine | 1.08 mmol, 464 mg | C(C)(C)(C)OC(=O)N1C(CN(CC1)C(=O)OC(C)(C)C)C1=CC=C(C=C1)C1=NOC=N1 | C22H30N4O5
reactant | hydrogen chloride | 4 N | Cl | ClH
solvent | dichloromethane | 2 mL | ClCCl | CH2Cl2
solvent | ethyl acetate | 3 mL | C(C)(=O)OCC | C4H8O2
product | 2-(4-(1,2,4-oxadiazol-3-yl)phenyl)piperazine dihydrochloride | 321 mg, 98% | Cl.Cl.O1N=C(N=C1)C1=CC=C(C=C1)C1NCCNC1 | InChI=1S/C12H14N4O.2ClH/c1-3-10(12-15-8-17-16-12)4-2-9(1)11-7-13-5-6-14-11;;/h1-4,8,11,13-14H,5-7H2;2*1H
